US08044074B2
1.2 g (4.36 mmol) of 2-bromo-1,2-diphenylethanone and 740 mg (6.54 mmol) of 5-fluoro-2-hydroxypyridine were intimately ground in a mortar, and the mixture was subsequently heated at 120° C. for 2 hours. The still hot, oily mass was dissolved in ethyl acetate. Cooling resulted in the 5-fluoro-1-(2-oxo-1,2-diphenylethyl)-1H-pyridin-2-one in crystalline form, 1.01 g (75%), which was immediately dissolved in 15 ml of methanol. After addition of 340 mg (9.03 mmol) of sodium borohydride, the mixture was left at room temperature for one hour and then diluted with water. The resulting mass of crystals was filtered off with suction. The product contains the diastereoisomeric pyrid-2-one alcohols in the ratio of about 1:2 and was not fractionated further.

reactant | 2-bromo-1,2-diphenylethanone | 4.36 mmol, 1.2 g | BrC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C14H11BrO
reactant | 5-fluoro-2-hydroxypyridine | 6.54 mmol, 740 mg | FC=1C=CC(=NC1)O | C5H4FNO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-fluoro-1-(2-oxo-1,2-diphenylethyl)-1H-pyridin-2-one | FC=1C=CC(N(C1)C(C(C1=CC=CC=C1)=O)C1=CC=CC=C1)=O | C19H14FNO2
